US09102621B2
2-(4-Bromobenzyloxy)-5-chloro-4-(trifluoromethyl)pyridine
To a solution of 4-bromobenzylbromide (0.43 g, 2.3 mmol) in tetrahydrofuran (8 mL) at 0° C. was added sodium hydride (60% w/w dispersion in oil; 138 mg, 3.45 mmol). The mixture was stirred for 1 hour at room temperature, then 2,5-dichloro-4-trifluoromethylpyridine (0.5 g, 2.3 mmol) was added in one portion and the reaction heated under reflux for 4 hours. The reaction mixture was cooled and partitioned between ethyl acetate (30 mL) and water (10 mL). The organic layer was dried over magnesium sulfate, filtered and evaporated in vacuo to give the crude title compound (0.61 g, 71%). This was used without further purification.

reactant | 4-bromobenzylbromide | 2.3 mmol, 0.43 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | sodium hydride | 3.45 mmol, 138 mg | [H-].[Na+]
reactant | 2,5-dichloro-4-trifluoromethylpyridine | 2.3 mmol, 0.5 g | ClC1=NC=C(C(=C1)C(F)(F)F)Cl | C6H2Cl2F3N
reactant | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 2-(4-Bromobenzyloxy)-5-chloro-4-(trifluoromethyl)pyridine | 0.61 g, 71% | BrC1=CC=C(COC2=NC=C(C(=C2)C(F)(F)F)Cl)C=C1 | C13H8BrClF3NO
